US07713994B2
A mixture of (6-chloro-5-propoxy-pyridin-2-yl)-methanol (0.93 g, 4.61 mmole), 20 mL of dichloromethane, tri(isopropyl)silyl chloride (1.0 g, 5.19 mmole) and imidazole (0.47 g, 6.9 mmole) is stirred overnight at ambient temperature. The reaction mixture is washed with water, dried over sodium sulfate, filtered and evaporated in-vacuo to give an oil which is chromatographed on silica gel with 10:1 hexane/ethyl acetate to give 2-chloro-3-propoxy-6-triisopropylsilanyloxymethyl-pyridine as a clear liquid, 1.06 g, (64%); MS (ES+): m/z 358.2, 360.2 (M+H). A portion of this (716 mg, 2.0 mmole) and 5 mL of 1M sodium benzyloxide in benzyl alcohol is heated in a microwave reactor 5 minutes at 120° C. The reaction mixture is cooled, transferred to a separatory funnel with ethyl acetate, washed with water, the organic layer is dried, filtered, evaporated and chromatographed on silica gel with hexane/ethyl acetate to give a clear liquid, 524 mg, (61%); MS (ES+): m/z 430.3 (M+H).

reactant | (6-chloro-5-propoxy-pyridin-2-yl)-methanol | 4.61 mmole, 0.93 g | ClC1=C(C=CC(=N1)CO)OCCC | C9H12ClNO2
reactant | tri(isopropyl)silyl chloride | 5.19 mmole, 1.0 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 6.9 mmole, 0.47 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-chloro-3-propoxy-6-triisopropylsilanyloxymethyl-pyridine | ClC1=NC(=CC=C1OCCC)CO[Si](C(C)C)(C(C)C)C(C)C | C18H32ClNO2Si
